US06509328B1
3-[3-(2,4-Dimethyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 3-(2,4-dimethyl-imidazol-1-yl)-benzoate [prepared by reaction of ethyl 3-aminobenzoate with ethyl acetimidate hydrochloride in EtOH at 0° C., direct treatment with 2-aminopropionaldehyde dimethyl acetal in EtOH at 23° C., follwed by addition of conc. H2SO4 and refluxing.] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a yellow-brown oil (6.00 g).

reactant | ethyl 3-(2,4-dimethyl-imidazol-1-yl)-benzoate | CC=1N(C=C(N1)C)C=1C=C(C(=O)OCC)C=CC1 | C14H16N2O2
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(2,4-Dimethyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester | 6.00 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C(=NC(=C1)C)C)=O | C18H22N2O3
